US07342022B2
2-Hydroxy-3-[7-(2-methoxyethoxy)quinazolin-4-yl]-1H-indole-5-carboxylic acid
To a mixture of methyl 2-hydroxy-3-[7-(2-methoxyethoxy)quinazolin-4-yl]-1H-indole-5-carboxylate (5.15 g, 13.1 mmol), methanol (100 mL) and water (50 mL) was added aqueous sodium hydroxide (92 mL, 1 M) and the reaction mixture was stirred at 40° C. over night. Methanol was removed in vacuo and the basic aqueous layer was acidified with 1 M hydrochloric acid and stirred for 30 min. The precipitate formed was filtered off, washed with hydrochloric acid (50 mL, 1 M) and water (2×50 mL) and dried in vacuo at 50° C. over night. The crude product was stirred in methanol at room temperature over night. The solid was filtered off to give 4.23 g (85% yield) of the title compound as an orange solid: MS (AP+) m/z 380.3 (M++1).

reactant | methyl 2-hydroxy-3-[7-(2-methoxyethoxy)quinazolin-4-yl]-1H-indole-5-carboxylate | 13.1 mmol, 5.15 g | OC=1NC2=CC=C(C=C2C1C1=NC=NC2=CC(=CC=C12)OCCOC)C(=O)OC | C21H19N3O5
reactant | methanol | 100 mL | CO | CH4O
reactant | sodium hydroxide | 1 M, 92 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 2-Hydroxy-3-[7-(2-methoxyethoxy)quinazolin-4-yl]-1H-indole-5-carboxylic acid | 4.23 g, 85% yield | OC=1NC2=CC=C(C=C2C1C1=NC=NC2=CC(=CC=C12)OCCOC)C(=O)O | C20H17N3O5
